### PR TITLE
refactor: replace manual proofs with existing lemmas

### PR DESCRIPTION
**Pull request by sqrt-of-2**

### CODE REVIEW

File: AddCombi/Mathlib/Data/Finset/Density.lean [hunk 1]
```diff
@@ -21,9 +21,7 @@ lemma dens_union_eq_dens_add_dens : (s ∪ t).dens = s.dens + t.dens ↔ Disjoin
   rw [← dens_union_add_dens_inter]; simp [disjoint_iff_inter_eq_empty]
 
 @[grind =]
-lemma dens_sdiff_of_subset (h : s ⊆ t) : (t \ s).dens = t.dens - s.dens := by
-  suffices (t \ s).dens = (t \ s ∪ s).dens - s.dens by rwa [sdiff_union_of_subset h] at this
-  rw [dens_union_of_disjoint sdiff_disjoint, add_tsub_cancel_right]
+lemma dens_sdiff_of_subset (h : s ⊆ t) : (t \ s).dens = t.dens - s.dens := dens_sdiff h
```
Comment (YaelDillies) [inline AddCombi/Mathlib/Data/Finset/Density.lean]: This lemma is meant to replace `dens_sdiff`, so don't bother shortening its proof

**Review by YaelDillies — APPROVED** [review]
Thanks!
